US08110585B2
trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde oxime
Trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde (1.62 g, 8.08 mmol), 8 M aqueous sodium hydroxide solution (4.04 mL, 32.3 mmol) and hydroxylamine hydrochloride (1.85 g, 26.7 mmol) was dissolved in ethanol/water (65 mL/13 mL), and the mixture was stirred at 60° C. for 3 hr. The reaction solution was concentrated, extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (1.67 g, yield 96%).

reactant | Trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde | 8.08 mmol, 1.62 g | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)C=O)=C1 | C12H12N2O
reactant | sodium hydroxide | 32.3 mmol, 8 M, 4.04 mL | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 26.7 mmol, 1.85 g | Cl.NO
solvent | ethanol water | 65 mL | C(C)O.O
product | trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde oxime | 1.67 g, yield 96% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)C=NO)=C1 | C12H13N3O
